US06441017B1
Step F: 2-Bromo-1-(tert-butoxycarbonylamino)-7-hydroxynaphthalene
To a stirred solution of 2-bromo-1-(tert-butoxycarbonylamino)naphth-7-yl methanesulfonate, as described above in Step E, (5.87 g, 14.09 mmol) in DMSO (70 mL) was added potassium tert-butoxide (5.17 g, 42.27 mmol) in one portion. The reaction mixture was stirred at ambient temperature for 1 hour, then neutralized with aqueous HCl, diluted with water and extracted with Et2O (2×). The combined organic extracts were washed with water (3×), dried over Na2SO4, filtered and concentrated in vacuo, to yield the above-titled compound.

reactant | 2-bromo-1-(tert-butoxycarbonylamino)naphth-7-yl methanesulfonate | CS(=O)(=O)OC1=CC=C2C=CC(=C(C2=C1)NC(=O)OC(C)(C)C)Br | C16H18BrNO5S
reactant | potassium tert-butoxide | 42.27 mmol, 5.17 g | CC(C)([O-])C.[K+]
reactant | HCl | Cl | ClH
solvent | DMSO | 70 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-Bromo-1-(tert-butoxycarbonylamino)-7-hydroxynaphthalene | BrC1=C(C2=CC(=CC=C2C=C1)O)NC(=O)OC(C)(C)C | C15H16BrNO3
